2178-04-24 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2178-4-23**] 09:08 AM
 EKG - At [**2178-4-23**] 01:50 PM
   -2 episodes of afib/rvr in am and in afternoon, responded to 10mg IV
   dilt and increased carvedilol to 12.5 mg PO BID
   -started amio, coumadin, losartan
   -repeat CXR looks improved, d/ced Vanc
   -repeat echo: Regional LV systolic dysfunction consistent with
   multi-vessel CAD or other diffuse process. Diastolic dysfunction. Mild
   mitral regurgitation. Mild pulmonary artery systolic hypertension. EF
   40-45%
   S: Sob improved. Feels better overall. Decreased productive cough. No
   F/C
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Demerol (Injection) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-22**] 12:00 PM
   Levofloxacin - [**2178-4-22**] 10:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-4-23**] 08:23 AM
   Diltiazem - [**2178-4-23**] 01:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-24**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 71 (64 - 164) bpm
   BP: 117/54(70) {91/38(55) - 156/74(93)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,373 mL
                                                                    120 mL
   PO:
                                                                  1,140 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    235 mL
   Urine:
                                                                  2,020 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///40/
   Physical Examination
   GEN: A+Ox3, NAD, talkative
   HEENT: MMM
   NECK: R IJ CVC in place, no JVD
   CV: RRR, no M/G/R, PMI at 5th intercostal space midclavicular line, no
   heaves or thrills
   PULM: Diminished throughout with poor inspiratory effort. Exp wheezes
   bilaterally.
   ABD: Soft, NT, mildly distended, +BS
   EXT: Trace ankle edema, WWP.
   Labs / Radiology
   189 K/uL
   10.6 g/dL
   117 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.4 mEq/L
   19 mg/dL
   96 mEq/L
   139 mEq/L
   32.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-4-21**]  07:51 PM
                             [**2178-4-21**]  11:56 PM
                             [**2178-4-22**]  02:14 AM
                             [**2178-4-22**]  02:51 AM
                             [**2178-4-23**]  05:05 AM
                             [**2178-4-23**]  04:53 PM
                             [**2178-4-24**]  03:19 AM
   WBC
   13.2
   10.0
   8.1
   9.0
   Hct
   39.6
   37.8
   32.8
   32.9
   32.0
   Plt
   221
   207
   193
   189
   Cr
   0.9
   1.0
   0.7
   0.8
   TCO2
   32
   31
   Glucose
   117
   282
   123
   117
   Other labs: PT / PTT / INR:12.9/31.1/1.1, CK / CKMB /
   Troponin-T:76/15/, ALT / AST:165/68, Alk Phos / T Bili:83/0.2, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:417 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   75 F with COPD, htn, bilateral hip replacement now with NSTEMI, CHF and
   COPD flare, complicated by hypercarbic respiratory failure, now
   resolved
   Afib/flutter with RVR: Sinus now but few intermittent episodes of
   afib/flutter.
   - Favor beta blockers over dilt for rate control given CAD, carvedilol
   uptitrated to 12.5mg twice daily
   - Started amiodarone
   - Started coumadin, CHADS=3, no need for bridge
   NSTEMI: s/p LAD [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 4
   - asa, bblocker, plavix, [**Last Name (un) **], statin
   - encourage her to quit tobacco
   CHF: EF 45% at OSH in [**Month (only) **].  Looks euvolemic today. TTE with EF 40-45%
   - bblocker and [**Last Name (un) **]
   - follow volume status closely, may require lasix given diastolic
   dysfunction
   COPD: Hyperinflated lungs with hypercarbia consistent COPD.  Extubated
   [**2178-4-22**] successfully.
   - levoflox x 5 days
   - f/u sputum culture
   - quick steroid taper, especially in setting of active MI, continue 5mg
   for 3 more days
   - inhalers
   HTN: restarted home bblocker and [**Last Name (un) **]
   Depression, Anxiety: paxil and klonipin PRN
   FEN: Cardiac diet
   PPX: sq heparin, eating
   CODE: full
   DISPO: pending
   CONTACT: [**Name (NI) 186**] [**Name (NI) 6509**] H [**Telephone/Fax (1) 6510**], W [**Telephone/Fax (1) 6511**]
   ICU Care
   Nutrition:
   Glycemic Control:  Humalog insulin sliding scale
   Lines:
   20 Gauge - [**2178-4-21**] 10:03 PM
   Multi Lumen - [**2178-4-22**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 350**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well, breathing much better, but still desaturated with
   activity.  Two further episodes of AF --> reverted to SR
   spontaneously.  Coumadin and amiodarone started.
   Plan:
   1. Beta blockers, amiodarone
   2. Warfarin
   3. Cont MedRx for CAD
   4. Restart [**Last Name (un) **] given depressed EF
   5. COPD care, finish abx x 5 days
   6. Smoking cessation
   7. Tx to [**Hospital Ward Name 289**] 3 today
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2178-4-24**] 10:13 ------